US07732435B2
7-Amino-3-(4-chlorophenyl)-2-isopropyl-chromen-4-one
A solution of 7-(benzhydrylideneamino)-3-(4-chlorophenyl)-2-isopropyl-chromen-4-one (5.72 g, 12 mmol) in tetrahydrofuran (150 ml) is treated with 2M HCl solution (150 ml) and allowed to stir at room temperature for 1 hour. The solution is basified with 17% ammonia solution (150 ml), and the mixture is extracted with ethyl acetate (3×200 ml). The organic extracts are combined, dried (MgSO4), filtered and concentrated to afford a yellow suspension. The suspension is triturated with hexanes to afford the title compound as a pale yellow solid, which is isolated by filtration and dried in vacuo overnight.

reactant | 7-(benzhydrylideneamino)-3-(4-chlorophenyl)-2-isopropyl-chromen-4-one | 12 mmol, 5.72 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)=NC1=CC=C2C(C(=C(OC2=C1)C(C)C)C1=CC=C(C=C1)Cl)=O | C31H24ClNO2
reactant | HCl | 2M, 150 ml | Cl | ClH
reactant | ammonia | 150 ml | N | H3N
solvent | tetrahydrofuran | 150 ml | O1CCCC1 | C4H8O
product | 7-Amino-3-(4-chlorophenyl)-2-isopropyl-chromen-4-one | NC1=CC=C2C(C(=C(OC2=C1)C(C)C)C1=CC=C(C=C1)Cl)=O | C18H16ClNO2
